data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_318674_1,[C@@:1]([N:4]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([N:5]([H:10])[H:11])(/[N:8]=[C:7](/[N:6]([H:12])[H:13])[H:14])[H:9]>>[C:1](\[N:5]([H:10])[H:11])(=[N:8]\[C@@:7]([N:4]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([N:6]([H:12])[H:13])[H:14])[H:9],50.5708524999811
MR_82287_0,[C:1](/[C:2]([N:3]([H:7])[H:8])=[C:4]([C:5](=[N:6]\[H:9])/[H:11])\[H:10])([H:12])([H:13])[H:14]>>[C:1]([C@:2]1([N:3]([H:7])[H:8])[C:4]([H:10])=[C:5]([H:11])[N:6]1[H:9])([H:12])([H:13])[H:14],44.777144999984415
MR_191151_0,[C:1]([C:2]([O:6][H:10])([H:12])[H:13])(/[C:3](=[N:7]\[O:4][H:8])[H:14])([O:5][H:9])[H:11]>>[C:1]1([O:5][H:9])([H:11])[C:3]([C:2]([O:6][H:10])([H:12])[H:13])([H:14])[N:7]1[O:4][H:8],67.50268499999976
MR_457913_2,[C:1]([C:3](/[C:5](=[N:6]\[C:2]([H:14])([H:15])[H:16])[H:11])=[N:7]\[H:8])([N:4]([H:9])[H:10])([H:12])[H:13]>>[C:1]([N:4]([H:9])[H:10])([C@:5]1([H:11])/[C:3](=[N:7]\[H:8])[N:6]1[C:2]([H:14])([H:15])[H:16])([H:12])[H:13],71.17167749997478
MR_99656_0,[C:1]([N:2]([H:6])[H:7])(/[C:3](=[N:5]\[H:8])[H:9])=[C:4]([H:10])[H:11]>>[C:1]1([N:2]([H:6])[H:7])=[C:3]([H:9])[N:5]([H:8])[C:4]1([H:10])[H:11],59.16446499998905
MR_290051_1,[C:1](/[C:5](=[C:4](/[N:7]([H:11])[H:12])[N:9]=[C:6]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])[O:8][H:10])([H:13])([H:14])[H:15]>>[C:1]([C:5]1([O:8][H:10])[C:4]([N:7]([H:11])[H:12])=[N:9][C:6]1([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])([H:13])([H:14])[H:15],29.912297499954832
MR_468247_2,[C:1]([C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])=[O:8])([N:5]([H:12])[H:13])([O:6][O:7][H:9])[H:11]>>[C:1](\[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])([O:6][O:7][H:9])[O:8][H:13])(=[N:5]/[H:12])[H:11],50.49492499999445
MR_364516_1,[C:1]([C:3]([H:16])([H:17])[H:18])(/[C:6]([C:4]([H:19])([H:20])[H:21])=[C:7](/[C:5]([H:22])([H:23])[H:24])[N:8]([H:11])[H:12])([O:9][C:2]([H:13])([H:14])[H:15])[H:10]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[C:6](\[C:4]([H:19])([H:20])[H:21])[C:7]([C:5]([H:22])([H:23])[H:24])([N:8]([H:11])[H:12])[O:9][C:2]([H:13])([H:14])[H:15])[H:10],50.54889000000088
MR_585415_1,[C:1](\[C:2]([C:4]([H:18])([H:19])[H:20])([C:5]([H:21])([H:22])[H:23])[C:7]([C:6]([H:24])([H:25])[H:26])([O:9][H:11])[N:10]([H:12])[H:14])([C:3]([H:15])([H:16])[H:17])=[N:8]/[H:13]>>[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([C:5]([H:21])([H:22])[H:23])/[C:7]([C:6]([H:24])([H:25])[H:26])=[N:10]/[H:14])([C:3]([H:15])([H:16])[H:17])([N:8]([H:12])[H:13])[O:9][H:11],41.11505500002764
MR_668350_1,[C:1]1([O:8][H:10])([H:12])[C:4]([C:2]([N:5]([H:13])[H:14])([H:15])[H:16])([N:3]([O:7][H:9])[H:11])[C:6]1([H:17])[H:18]>>[C:1]([N:3]([O:7][H:9])[H:11])([C:4]([C:2]([N:5]([H:13])[H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])([O:8][H:10])[H:12],68.14461749998415
MR_575158_2,[C:1]([N:2](/[C:3]([N:8]=[C:5]([H:15])[H:16])=[N:9]\[H:11])[C:4](=[C:6]([H:17])[H:18])[O:7][H:10])([H:12])([H:13])[H:14]>>[C:1]([N:2](/[C:3]([C:4](=[C:6]([H:17])[H:18])[O:7][H:10])=[N:9]/[H:11])[N:8]=[C:5]([H:15])[H:16])([H:12])([H:13])[H:14],22.47705000000068
MR_144707_1,[C@:1]([N:3]([H:9])[H:10])(/[C:4](=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:12])[H:11])([O:6][H:7])[H:8]>>[C:1](\[N:3]([H:9])[H:10])(=[C:4](/[C@@:5]([C:2]([H:13])([H:14])[H:15])([O:6][H:7])[H:12])[H:11])[H:8],49.711177500047086
MR_38231_1,[C:1](/[C:2]([N:3]([H:7])[H:8])=[N:5]/[C:4](=[N:6]\[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C@:2]([N:3]([H:7])[H:8])([N:5][C:4][N:6][H:9])[H:10])([H:11])([H:12])[H:13],69.6819924999906
MR_705980_0,[C:1]([C:4](/[C:5]([C:2]([H:17])([H:18])[H:19])=[C:6](/[C:3]([H:20])([H:21])[H:22])[N:8]([H:12])[H:13])=[N:9]\[N:7]([H:10])[H:11])([H:14])([H:15])[H:16]>>[C:1]([C:4]1=[C:5]([C:2]([H:17])([H:18])[H:19])[C:6]([C:3]([H:20])([H:21])[H:22])([N:8]([H:12])[H:13])[N:9]1[N:7]([H:10])[H:11])([H:14])([H:15])[H:16],39.12713499998162
MR_136112_1,[C:1]([N:3]([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])[H:12])(/[C:5](=[C:6](/[O:8][H:11])[H:15])[O:7][H:10])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:3]([H:12])[C@@:5]1([C@@:6]([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])([O:8][H:11])[H:15])[O:7][H:10],69.88341999998141
MR_558540_1,[C:1]([C:2]([O:8][H:12])=[O:9])([C:4]([C:3]([H:18])([H:19])[H:20])([N:6]([H:16])[H:17])[O:10][H:13])([N:5]([H:14])[H:15])[O:7][H:11]>>[C:1]([C:2]([C:3]([H:18])([H:19])[H:20])([O:8][H:12])[O:9][H:13])([C:4]([N:6]([H:16])[H:17])=[O:10])([N:5]([H:14])[H:15])[O:7][H:11],56.44676250009127
MR_463888_1,[C:1]1([N:3]([N:4]([H:10])[H:11])[H:7])([H:8])[C:2]([N:5]([H:12])[H:13])([H:9])[O:6]1>>[C:1](/[C:2](=[N:5]/[H:12])[H:9])([N:3]([N:4]([H:10])[H:11])[H:7])([O:6][H:13])[H:8],21.94053749999981
MR_428799_2,[C@@:1]([C:2]([O:7][H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([O:4][O:5][H:8])[O:6][H:9]>>[C:1]([C:3]([H:13])([H:14])[H:15])([O:4][C:2]([O:7][H:10])([H:11])[H:12])([O:5][H:8])[O:6][H:9],47.09952249997073
